US08293715B2
Synthesis of 3-(1-hydroxy-1-phenylethyl)phenol
3′-Hydroxyacetophenone (5.0 g) was dissolved in tetrahydrofuran (100 ml), and the solution was added dropwise with a 1 M solution of phenylmagnesium bromide in tetrahydrofuran (100 ml) at −30° C. Then mixture was further added with tetrahydrofuran (100 ml), and the mixture was stirred for 3 hours with gradually warming it. The mixture was added with saturated aqueous ammonium chloride under ice cooling, the mixture was extracted with ethyl acetate, and the organic layer was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1 to 1:1) to obtain the title compound (7.55 g).

reactant | 3′-Hydroxyacetophenone | 5.0 g | OC=1C=C(C=CC1)C(C)=O | C8H8O2
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-(1-hydroxy-1-phenylethyl)phenol | 7.55 g | OC(C)(C1=CC=CC=C1)C=1C=C(C=CC1)O | C14H14O2
